US08039472B2
To a solution of 2-methyl-propane-2-sulfinic acid {4-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-1-formyl-butyl}-amide in THF (20 ml) is added tert-butyl sulfinamide (323 mg, 2.7 mmol) followed by titanium ethoxide (1.0 ml, 4.8 mmol). The yellow solution formed is stirred at room temperature overnight. The solution is quenched with 1N NaOH (50 ml) and EtOAc (50 ml) and stirred for 30 minutes at room temperature. The resultant mixture is filtered through Celite™ (filter material) and the organic phase separated and dried (MgSO4). Concentration gives 2-Methyl-propane-2-sulfinic acid (4-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-1-{[(E)-2-methyl-propane-2-sulfinylimino]-methyl}-butyl)-amide as a mixture of diastereomers as a yellow oil; [M+H]+ 515.38

reactant | 2-methyl-propane-2-sulfinic acid {4-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-1-formyl-butyl}-amide | CC1(OC[C@H](O1)COC1=CC=C(C=C1)CCCC(C=O)NS(=O)C(C)(C)C)C | C21H33NO5S
reactant | tert-butyl sulfinamide | 2.7 mmol, 323 mg | C(C)(C)(C)S(=O)N | C4H11NOS
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | titanium ethoxide | 4.8 mmol, 1.0 ml | [O-]CC.[Ti+4].[O-]CC.[O-]CC.[O-]CC
product | 2-Methyl-propane-2-sulfinic acid (4-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-1-{[(E)-2-methyl-propane-2-sulfinylimino]-methyl}-butyl)-amide | CC1(OC[C@H](O1)COC1=CC=C(C=C1)CCCC(/C=N/S(=O)C(C)(C)C)NS(=O)C(C)(C)C)C | C25H42N2O5S2
